US07465730B2
To a solution of 1-[4-acetyl-1-(3-chloro-4-hydroxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (340 mg, 1.0 mmol) was added hydrazine (50 μL). After stirring at rt for 1 h, the reaction mixture was poured into ice water (25 mL). The resulting precipitate was filtered, washed with diethyl ether (20 mL), and then dried under vacuum to afford 2-chloro-4-(1,4,5,7-tetramethyl-pyrrolo[3,4-d]pyridazin-6-yl)-phenol as a pale yellow solid: 1H NMR (CD3OD, 500 MHz) δ 7.34 (br s, 1H), 7.08 (m, 2H), 2.83 (s, 6H), 2.52 (s, 6); MS (ESI) 302 (M+H)+.

reactant | 1-[4-acetyl-1-(3-chloro-4-hydroxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | 1.0 mmol, 340 mg | C(C)(=O)C=1C(=C(N(C1C)C1=CC(=C(C=C1)O)Cl)C)C(C)=O | C16H16ClNO3
reactant | hydrazine | 50 μL | NN | H4N2
product | 2-chloro-4-(1,4,5,7-tetramethyl-pyrrolo[3,4-d]pyridazin-6-yl)-phenol | ClC1=C(C=CC(=C1)N1C(=C2C(=NN=C(C2=C1C)C)C)C)O | C16H16ClN3O
